US07012077B2
A solution of 258 mg (corresponding to 0.41 mmol) of crude trans-Methanesulfonic acid 4-[2-(5-bromo-pyrimidin-2-ylamino)-ethyl]-cyclohexylmethyl ester in 5 ml of methanol was treated with 0.73 ml (4.1 mmol) Dimethylamine (33% in EtOH, 5.6M) and heated at 65° C. for 4 h, a catalytic amount of NaI was added and heated for 16 h. After cooling and evaporation, the residue was extracted with aqueous saturated NaHCO3/Et2O (3×). The organic phase was dried (Na2SO4), filtered and evaporated. Purification by flash column chromatography on silica gel (CH2Cl2/MeOH 99:1 to 9:1) gave 105 mg (76%) of trans-(5-Bromo-pyrimidin-2-yl)-[2-(4-dimethylaminomethyl-cyclohexyl)-ethyl]-amine, mp: 108.3–109.5° C.; MS: 341 (MH+, 1Br).

reactant | trans-Methanesulfonic acid 4-[2-(5-bromo-pyrimidin-2-ylamino)-ethyl]-cyclohexylmethyl ester | 0.41 mmol, 258 mg | BrC=1C=NC(=NC1)NCC[C@@H]1CC[C@H](CC1)COS(=O)(=O)C | C14H22BrN3O3S
reactant | Dimethylamine | 4.1 mmol, 5.6M, 0.73 ml | CNC | C2H7N
reactant | NaI | [Na+].[I-]
solvent | methanol | 5 ml | CO | CH4O
product | trans-(5-Bromo-pyrimidin-2-yl)-[2-(4-dimethylaminomethyl-cyclohexyl)-ethyl]-amine | 105 mg, 76% | BrC=1C=NC(=NC1)NCC[C@@H]1CC[C@H](CC1)CN(C)C | C15H25BrN4
